US06489339B1
To 2,2-diphenylethanol (1 g) in DMF (10 mL) was added 60% sodium hydride (350 mg) at 0° C. under Ar. The solution was stirred for 10 min, and t-butyl bromoacetate (888 uL) was added, and the solution was warmed to RT. After stirring 30 min, the reaction was quenched with water (20 mL), and the aqueous solution was extracted with ether (25 mL). The organic layer was washed with water (20 mL) and brine (20 mL). The organic solution was dried (MgSO4), and silica gel flash chromatography (3% ethyl acetate/hexanes) yielded t-butyl (2,2-diphenylethoxy)acetate. The intermediate was treated with 25% TFA/CH2Cl2 for 1 h. The solvent was removed, and traces of TFA was removed by azeotroping with toluene to yield the title compound. 1H NMR (CDCl3) δ 7.1-7.4 (m, 10H), 4.32 (t, J=8.4 Hz, 1H), 4.0-4.1 (m, 4H).

reactant | 2,2-diphenylethanol | 1 g | C1(=CC=CC=C1)C(CO)C1=CC=CC=C1 | C14H14O
reactant | sodium hydride | 350 mg | [H-].[Na+]
reactant | t-butyl bromoacetate | 888 uL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | t-butyl (2,2-diphenylethoxy)acetate | C1(=CC=CC=C1)C(COCC(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H24O3
